US08377970B2
N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}isonicotinamide hydrochloride
Following the general procedure-1, N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}isonicotinamide (160 mg) was prepared from isonicotinic acid (132 mg, 1.2 mmol) and intermediate 36 (290 mg, 0.67 mmol) as an off-white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (137 mg) as an yellow solid M.P.: 186-188° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.23 (s, 1H), 8.99 (d, J 2.5, 1H), 8.94 (d, J 6.2, 2H), 8.47 (dd, J 2.5, 8.8, 1H), 8.14 (d, J 6.2, 2H), 7.85 (d, J 8.8, 1H), 6.65 (s, 1H), 2.60-2.50 (m, 1H), 1.04-0.94 (m, 2H), 0.80-0.73 (m, 2H). MS (m/z): 371.65 [M−H]−.

reactant | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}isonicotinamide | 160 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=CC=NC=C1)=O)C(F)(F)F | C18H14F3N5O
reactant | isonicotinic acid | 1.2 mmol, 132 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}isonicotinamide hydrochloride | 137 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=CC=NC=C1)=O)C(F)(F)F | InChI=1S/C18H14F3N5O.ClH/c19-18(20,21)15-9-14(11-1-2-11)26(25-15)16-4-3-13(10-23-16)24-17(27)12-5-7-22-8-6-12;/h3-11H,1-2H2,(H,24,27);1H
